* D:\Academics\FA2022\JDFU\ASSIGNMENTS\A5\LTSPICE_BREADBOARD\Draft1.asc
R909R511 VCC N001 1000
C0P01U N002 0 0.01µ
XU1 0 N002 OUT VCC N003 N002 N001 VCC NE555
C100U1 N001 N003 1µ
R5P6 N003 0 5.6K
C100U2 OUT SPEAKER_IN 1µ
C10U VCC 0 1µ
R15K N001 N002 15K
V§IO VCC 0 9
.tran 0 1 0.01 0.01
.lib NE555.sub
.backanno
.end
